US08426447B2
A 100 mL RBF was charged with tetrahydro-3-furanmethanol (0.500 mL, 4.79 mmol), DCM (19.15 mL), and pyridine (0.410 mL, 5.51 mmol). The solution was cooled for 10 minutes in an ice bath, then triflic anhydride (0.890 mL, 5.27 mmol) was added slowly dropwise. The resulting pink solution was stirred for one hour at 0° C. The reaction was decanted and the remaining salts were washed with DCM and decanted again. The combined organic layers were concentrated and purified via column chromatography (RediSep 40 g, gradient elution 0-40% EtOAc:Hex). The resulting oil was vacuum dried for one hour to afford (tetrahydrofuran-3-yl)methyl trifluoromethanesulfonate as a light brown oil. The material was used immediately in step 2.

reactant | tetrahydro-3-furanmethanol | 4.79 mmol, 0.500 mL | O1CC(CC1)CO | C5H10O2
reactant | pyridine | 5.51 mmol, 0.410 mL | N1=CC=CC=C1 | C5H5N
reactant | triflic anhydride | 5.27 mmol, 0.890 mL | S(=O)(=O)(C(F)(F)F)OS(=O)(=O)C(F)(F)F | C2F6O5S2
solvent | DCM | 19.15 mL | C(Cl)Cl | CH2Cl2
product | (tetrahydrofuran-3-yl)methyl trifluoromethanesulfonate | FC(S(=O)(=O)OCC1COCC1)(F)F | C6H9F3O4S
